US04042697
a. 6-Ethoxy-2-butylisoquinolinium iodide
6-Ethoxyisoquinoline (0.5 g.), and butyl iodide (0.5 g.) in acetonitrile (50 ml) were heated under reflux for 24 hours. The solution was cooled and diluted with ether to give pale yellow crystals, m.p. 129°.

reactant | 6-Ethoxyisoquinoline | 0.5 g | C(C)OC=1C=C2C=CN=CC2=CC1 | C11H11NO
reactant | butyl iodide | 0.5 g | C(CCC)I | C4H9I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 6-Ethoxy-2-butylisoquinolinium iodide | [I-].C(C)OC=1C=C2C=C[N+](=CC2=CC1)CCCC | InChI=1S/C15H20NO.HI/c1-3-5-9-16-10-8-13-11-15(17-4-2)7-6-14(13)12-16;/h6-8,10-12H,3-5,9H2,1-2H3;1H/q+1;/p-1
